US05814648
4,5-Dihydro-2-(2-fluoro-3-iodophenyl)-4(R)-phenyloxazole was prepared from 2-fluoro-3-iodobenzoyl chloride in a similar manner to that of (+)-4,5-dihydro-2-(3-iodophenyl)-4(R)-phenyloxazole as described in Example 1.

reactant | 2-fluoro-3-iodobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1I | C7H3ClFIO
reactant | (+)-4,5-dihydro-2-(3-iodophenyl)-4(R)-phenyloxazole | IC=1C=C(C=CC1)C=1OC[C@H](N1)C1=CC=CC=C1 | C15H12INO
product | 4,5-Dihydro-2-(2-fluoro-3-iodophenyl)-4(R)-phenyloxazole | FC1=C(C=CC=C1I)C=1OC[C@H](N1)C1=CC=CC=C1 | C15H11FINO
